US04622333
62 ml of butyl-lithium (15% strength in hexane, 0.1 mol) are added dropwise to 13.65 g (0.1 mol) of 4-chlorophenyl-acetylene in 50 ml of absolute tetrahydrofuran at 0° C., under nitrogen. The mixture is subsequently stirred at 0° C. for 15 minutes, and 18.5 g (0.1 mol) of 3,3-dimethyl-4-fluoro-1-(1,2,4-triazol-1-yl)-2-butanone in 30 ml of absolute tetrahydrofuran are then added dropwise. Thereafter, the reaction mixture is allowed to warm to room temperature and is subsequently stirred for 14 hours. It is concentrated by distilling off some of the solvent, the residue is taken up in ether and the mixture is washed neutral with water, dried over sodium sulphate and concentrated. The residue is recrystallized from diisopropyl ether. 19.9 g (61.9% of theory) of 1-(4-chlorophenyl)-4,4-dimethyl-5-fluoro-3-(1,2,4-triazol-1-ylmethyl)-1-pentin-3-ol or melting point 120° C. are obtained.

reactant | butyl-lithium | 0.1 mol, 62 ml | C(CCC)[Li]
reactant | 4-chlorophenyl-acetylene | 0.1 mol, 13.65 g | ClC1=CC=C(C=C1)C#C | C8H5Cl
reactant | 3,3-dimethyl-4-fluoro-1-(1,2,4-triazol-1-yl)-2-butanone | 0.1 mol, 18.5 g | CC(C(CN1N=CN=C1)=O)(CF)C | C8H12FN3O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(4-chlorophenyl)-4,4-dimethyl-5-fluoro-3-(1,2,4-triazol-1-ylmethyl)-1-pentin-3-ol | 19.9 g, 61.9% | ClC1=CC=C(C=C1)C#CC(C(CF)(C)C)(O)CN1N=CN=C1 | C16H17ClFN3O
